US05123953
Preparation of 2-(6-chloro-2-pyridyl)-1-phenyl-sulphonyl-2-propene
In a similar manner to the preparation of 2-phenyl-1-phenylsulphonyl-2-propene, this mixture (7 g, 0.02 moles as 1-chloro-2-(6-chloro-2-pyridyl)-2-propene) is treated with sodium benzenesulphinate to obtain, after treatment, 2-(6-chloro-2-pyridyl)-1-phenylsulphonyl-2-propene (4.3 g, 73%). Mp=135° C.

reactant | 2-phenyl-1-phenylsulphonyl-2-propene | C1(=CC=CC=C1)C(CS(=O)(=O)C1=CC=CC=C1)=C | C15H14O2S
reactant | 1-chloro-2-(6-chloro-2-pyridyl)-2-propene | ClCC(=C)C1=NC(=CC=C1)Cl | C8H7Cl2N
reactant | sodium benzenesulphinate | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | 2-(6-chloro-2-pyridyl)-1-phenylsulphonyl-2-propene | 4.3 g | ClC1=CC=CC(=N1)C(CS(=O)(=O)C1=CC=CC=C1)=C | C14H12ClNO2S
product | 2-(6-chloro-2-pyridyl)-1-phenyl-sulphonyl-2-propene | ClC1=CC=CC(=N1)C(C(C1=CC=CC=C1)=S(=O)=O)=C | C14H10ClNO2S
